US05965738
Synthesis of 5-ethyl-2-trifluoroacetylimino-3-(4-iodobenzyl)-1,3,4-thiadiazoline
To a suspension of sodium hydride (0.44 g) in N,N-dimethylformamide (10 ml) was added 5-ethyl-2-trifluoroacetylamino-1,3,4-thiadiazole (2.25 g) in three portions on ice. After the resulting mixture was stirred at the same temperature for 30 minutes, to the mixture was added 4-iodobenzyl bromide (2.97 g), and the mixture was stirred at room temperature for two hours. To the reaction mixture, ethyl acetate (50 ml) was added. The resulting mixture was washed successively with 10% aqueous citric acid solution and water and dried over anhydrous magnesium sulfate, followed by the removal through distillation. The residue so obtained was crystallized from n-hexane, collected by filtration and then dried, whereby 2.2 g of the title compound was obtained.

reactant | sodium hydride | 0.44 g | [H-].[Na+]
reactant | 5-ethyl-2-trifluoroacetylamino-1,3,4-thiadiazole | 2.25 g | C(C)C1=NN=C(S1)NC(C(F)(F)F)=O | C6H6F3N3OS
reactant | 4-iodobenzyl bromide | 2.97 g | IC1=CC=C(CBr)C=C1 | C7H6BrI
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-ethyl-2-trifluoroacetylimino-3-(4-iodobenzyl)-1,3,4-thiadiazoline | 2.2 g | C(C)C1=NN(C(S1)=NC(C(F)(F)F)=O)CC1=CC=C(C=C1)I | C13H11F3IN3OS
